US08084398B2
2,4-Dichloro-3-[2-(1H-tetrazol-1-yl)ethoxy]benzoyl chloride (0.60 g) was dissolved in tetrahydrofuran (5 ml), this solution was added dropwise to a tetrahydrofuran (5 ml) solution of 1,3-dimethyl-5-hydroxypyrazole (0.22 g) and triethylamine (0.23 g) at 5° C. and the mixture was stirred at room temperature for 6 hours. After the reaction, the mixture was extracted with ethyl acetate (100 ml) and then washed with diluted hydrochloric acid and an aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off to obtain the desired 5-{2,4-dichloro-3-[2-(1H-tetrazol-1-yl)ethyloxy]-benzoyloxy}-1,3-dimethylpyrazole (0.65 g).

reactant | 2,4-Dichloro-3-[2-(1H-tetrazol-1-yl)ethoxy]benzoyl chloride | 0.60 g | ClC1=C(C(=O)Cl)C=CC(=C1OCCN1N=NN=C1)Cl | C10H7Cl3N4O2
reactant | 1,3-dimethyl-5-hydroxypyrazole | 0.22 g | CN1N=C(C=C1O)C | C5H8N2O
reactant | triethylamine | 0.23 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-{2,4-dichloro-3-[2-(1H-tetrazol-1-yl)ethyloxy]-benzoyloxy}-1,3-dimethylpyrazole | 0.65 g | ClC1=C(C(=O)OC2=CC(=NN2C)C)C=CC(=C1OCCN1N=NN=C1)Cl | C15H14Cl2N6O3
